US06423717B1
1-(5-Chloro-3-methylbenzo[b]thiophene2-sulfonyl)-6-(4-methylpiperazin-1-yl)-2,3-dihydro-1H-indole (E123)
The title compound (E123) was prepared from 6-(4-methylpiperazin-1-yl)-2,3-dihydro-1H-indole (prepared from 3-nitroaniline, using methodology of WO95/06637 Intermediate 3) (39 mg, 0.18 mmol) and 5-chloro-3-methylbenzo[b]thiophene-2-sulfonyl chloride (50 mg; 0.18 mmol) using the method of Example 1 (75 mg, 84%) MH+=462/464.

reactant | 6-(4-methylpiperazin-1-yl)-2,3-dihydro-1H-indole | CN1CCN(CC1)C1=CC=C2CCNC2=C1 | C13H19N3
reactant | 3-nitroaniline | [N+](=O)([O-])C=1C=C(N)C=CC1 | C6H6N2O2
reactant | 5-chloro-3-methylbenzo[b]thiophene-2-sulfonyl chloride | 0.18 mmol, 50 mg | ClC1=CC2=C(SC(=C2C)S(=O)(=O)Cl)C=C1 | C9H6Cl2O2S2
product | 1-(5-Chloro-3-methylbenzo[b]thiophene2-sulfonyl)-6-(4-methylpiperazin-1-yl)-2,3-dihydro-1H-indole | ClC1=CC2=C(SC(=C2C)S(=O)(=O)N2CCC3=CC=C(C=C23)N2CCN(CC2)C)C=C1 | C22H24ClN3O2S2
